US06432993B1
(11-2) 5-{4-(1-Methyl-6-[3-(morpholin-4-yl)phenoxy]-1H-benzimidazol-2-ylmethoxy)benzyl}thiazolidine-2,4-dione dihydrochloride
A mixture of t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[3-(morpholin-4-yl)phenoxy]phenyl)-N-methylcarbamate and 20 ml of 4N hydrochloric acid/dioxane was stirred at room temperature for 3 hours. The reaction mixture was evaporated to dryness under reduced pressure, followed by the addition of ether. The insoluble product was collected by filtration and washed with ether, whereby 1.27 g of the title compound were obtained.

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[3-(morpholin-4-yl)phenoxy]phenyl)-N-methylcarbamate | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC(=CC=C2)N2CCOCC2)N(C(OC(C)(C)C)=O)C)C=C1 | C34H38N4O8S
reactant | hydrochloric acid dioxane | 4N, 20 ml | Cl.O1CCOCC1
product | 5-{4-(1-Methyl-6-[3-(morpholin-4-yl)phenoxy]-1H-benzimidazol-2-ylmethoxy)benzyl}thiazolidine-2,4-dione dihydrochloride | 1.27 g | Cl.Cl.CN1C(=NC2=C1C=C(C=C2)OC2=CC(=CC=C2)N2CCOCC2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | InChI=1S/C29H28N4O5S.2ClH/c1-32-25-17-23(38-22-4-2-3-20(16-22)33-11-13-36-14-12-33)9-10-24(25)30-27(32)18-37-21-7-5-19(6-8-21)15-26-28(34)31-29(35)39-26;;/h2-10,16-17,26H,11-15,18H2,1H3,(H,31,34,35);2*1H
